US05639913
N-(2-n-Propylpentanoyl)-1-aminoindan
A solution of valproyl chloride (1.55 g, 9.6 mmole) in toluene (25 ml) was added dropwise to a stirred and ice-cooled solution of 1-aminoindan (1.47 g, 10.0 mmole) and Et3N (1.11 g, 11 mmole). The mixture was stirred at ambient temperature for 17 hours, EtOAc (60 ml) and water (50 ml) were added and the phases were separated. The organic phase was washed successively with 0.1N HCl (40 ml), 0.1N NaHCO3 (40 ml) and saturated NaCl (40 ml), dried over magnesium sulphate and evaporated to dryness under reduced pressure. The residue was treated with hexane (15 ml, 30 min stirring, RT) and filtered. The crude product was crystallized from hexane:EtOAc (70:30 mixture), to give 1.72 g (6.65 mmole, 69%) of a white crystalline solid, mpt: 133°-4° C.

reactant | valproyl chloride | 9.6 mmole, 1.55 g | C(C(CCC)CCC)(=O)Cl | C8H15ClO
reactant | 1-aminoindan | 10.0 mmole, 1.47 g | NC1CCC2=CC=CC=C12 | C9H11N
reactant | Et3N | 11 mmole, 1.11 g | CCN(CC)CC | C6H15N
reactant | EtOAc | 60 ml | CCOC(=O)C | C4H8O2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 ml | O | H2O
product | N-(2-n-Propylpentanoyl)-1-aminoindan | 6.65 mmole, 1.72 g, 69% | C(CC)C(C(=O)NC1CCC2=CC=CC=C12)CCC | C17H25NO
